US04279918
2-(4-aminobenzyl)-1-methylpyrrolidine
Reduce 8.5 g of 1-methyl-2-(4-nitrobenzylidene)pyrrolidine in ethanol with platinum/hydrogen. Remove the catalyst and solvent and recrystallize from n-hexane to obtain 3.6 g (49% of theory) of title compound (m.p. 59° to 61°).

reactant | 1-methyl-2-(4-nitrobenzylidene)pyrrolidine | 8.5 g | CN1C(CCC1)=CC1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O2
solvent | ethanol | C(C)O | C2H6O
catalyst | platinum hydrogen | [Pt].[H][H]
product | 2-(4-aminobenzyl)-1-methylpyrrolidine | NC1=CC=C(CC2N(CCC2)C)C=C1 | C12H18N2
